US07732435B2
3-(4-Chlorophenyl)-2-isopropyl-9-methyl-4-oxo-4H-pyrano[2,3-e]indole-7-carboxylic acid benzyl ester
A mixture of allyl-[8-bromo-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl]carbamic acid benzyl ester (0.094 g, 0.166 mmol), tetrakis(triphenylphosphine)palladium (0) (0.01 g, 0.0086 mmol, 5 mol %) and cesium carbonate (0.27 g, 0.83 mmol, 5 eq.) in acetonitrile (4 ml) and methylene chloride (1 ml) is irradiated in a microwave instrument at 100° C. for 20 min. The mixture is filtered through Celite filter aid, and the pad of Celite is washed with methylene chloride, followed by ethyl acetate. The combined filtrates are evaporated in vacuo, and the residue is purified by flash chromatography (15% ethyl acetate in cyclohexane) to afford a yellow solid. LC-MS analysis suggests, that the product is a mixture of carbon-carbon double bond isomers in a 1.7:1 ratio.

reactant | allyl-[8-bromo-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl]carbamic acid benzyl ester | 0.166 mmol, 0.094 g | C(C1=CC=CC=C1)OC(N(C1=CC=C2C(C(=C(OC2=C1Br)C(C)C)C1=CC=C(C=C1)Cl)=O)CC=C)=O | C29H25BrClNO4
reactant | cesium carbonate | 0.83 mmol, 0.27 g, 5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | carbon carbon | [C].[C] | 2C
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0086 mmol, 0.01 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-Chlorophenyl)-2-isopropyl-9-methyl-4-oxo-4H-pyrano[2,3-e]indole-7-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C=C(C2=C3C(=CC=C12)C(C(=C(O3)C(C)C)C3=CC=C(C=C3)Cl)=O)C | C29H24ClNO4
